US06559143B1
(i) 4-(4-Chlorobutyl)pyridine
4-Methylpyridine (8.4 g, 90 mmol) and THF (40 mL) were mixed in dry glassware, flushed with nitrogen and cooled to −60° C. n-BuLi (1.6 M solution, 61.9 mL, 99 mmol) was added dropwise over 1.5 h. The temperature was not allowed to exceed −50° C. The mixture was then allowed to reach rt, THF (20 mL) was added and the mixture was then stirred at 45° C. for 2 h. Additional THF (20 mL) was added. This mixture was cooled to 0° C. and added dropwise through a cooled dropping funnel to a 65° C. solution of 3-bromo-1-chloropropane (14.9 g, 94.5 mmol) in THF (15 mL). The reaction mixture was slowly allowed to reach 0° C. overnight. Water (90 mL) was added, and the mixture was stirred for 10 min. The organic layer was separated and dried (Na2SO4) to give the sub-title compound in 97.6% yield.

reactant | 4-Methylpyridine | 90 mmol, 8.4 g | CC1=CC=NC=C1 | C6H7N
reactant | n-BuLi | 99 mmol, 1.6 M, 61.9 mL | [Li]CCCC
reactant | 3-bromo-1-chloropropane | 94.5 mmol, 14.9 g | BrCCCCl | C3H6BrCl
reactant | Water | 90 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-(4-Chlorobutyl)pyridine | 97.6% yield | ClCCCCC1=CC=NC=C1 | C9H12ClN
